US07091227B2
1-(6-Bromo-7-trifluoromethanesulfonyl-2-benzthiazolyl)-3-ethyl-urea, (14):
To a solution of 1-(6-bromo-7-hydroxy-2-benzothiazolyl)-3-ethyl-urea (50 mg, 0.158 mmol) in pyridine (1 mL) were added 3 portions of (CF3SO2)2O (29 μL, 0.174 mmol) about 45 minutes apart. The reaction mixture was stirred for about 3 hours at about 35° C. The solvent was then evaporated. The crude material was purified by LC/MS to give 23 mg (32%) pure 14. 1H NMR (DMSO) δ 1.09 (t, 3H, J=8 Hz CH3), 3.19 (m, 2H, CH2), 6.79 (br s, 1H, NH), 7.67 (d, 1H, J=12 Hz, ArH), 7.80 (d, 1H, J=8 Hz, ArH), 11.20 (br s, 1H, NH). HPLC retention time 3.58 minutes.

reactant | 1-(6-bromo-7-hydroxy-2-benzothiazolyl)-3-ethyl-urea | 0.158 mmol, 50 mg | BrC1=C(C2=C(N=C(S2)NC(=O)NCC)C=C1)O | C10H10BrN3O2S
reactant | (CF3SO2)2O | 0.174 mmol, 29 μL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1-(6-Bromo-7-trifluoromethanesulfonyl-2-benzthiazolyl)-3-ethyl-urea | BrC1=C(C2=C(N=C(S2)NC(=O)NCC)C=C1)S(=O)(=O)C(F)(F)F | C11H9BrF3N3O3S2
